US08258160B2
Synthesis of 2-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide
To a mixture of 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide (0.10 g, 0.32 mmol), copper(I) iodide (0.002 g, 0.009 mmol), tetrakis(triphenylphosphine)palladium(0) (0.011 g, 0.009 mmol) in anhydrous toluene (3 mL) was added 2-(benzyloxymethyl)-5-(tributylstannyl)-2H-tetrazole (0.018 g, 0.39 mmol, prepared following the procedure described in Tetrahedron Letters, 41, (2000), 2805-2809) and the reaction mixture was heated at 85° C. in a sealed tube for 6 hours. The reaction mixture was cooled to ambient temperature and concentrated in vacuo. The residue was purified by column chromatography (ethyl acetate:methanol, 10:1) to afford the title compound as a clear oil (0.065 g, 48%): 1H NMR (300 MHz, CDCl3) δ 8.53 (br s, 1H), 8.52-8.45 (m, 1H), 7.75-7.69 (m, 1H), 7.36-7.20 (m, 6H), 6.80 (t, J=5.8 Hz, 1H), 5.97 (s, 2H), 4.69 (s, 2H), 4.61 (d, J=5.8 Hz, 2H), 2.72 (s, 3H); 13C NMR (75 MHz, CDCl3) δ 161.4, 160.3, 157.3, 153.3, 149.2, 149.1, 135.9, 135.3, 133.5, 128.7, 128.5, 128.2, 128.0, 123.8, 80.3, 72.4, 41.7, 17.5; MS (ES+) m/z 422.3 (M+1).

reactant | 2-bromo-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.32 mmol, 0.10 g | BrC=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C11H10BrN3OS
reactant | 2-(benzyloxymethyl)-5-(tributylstannyl)-2H-tetrazole | C(C1=CC=CC=C1)OCN1N=C(N=N1)[Sn](CCCC)(CCCC)CCCC
solvent | toluene | 3 mL | C1(=CC=CC=C1)C | C7H8
catalyst | copper(I) iodide | 0.009 mmol, 0.002 g | [Cu]I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.009 mmol, 0.011 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-(2-(benzyloxymethyl)-2H-tetrazol-5-yl)-4-methyl-N-(pyridin-3-ylmethyl)thiazole-5-carboxamide | 0.065 g, 48% | C(C1=CC=CC=C1)OCN1N=C(N=N1)C=1SC(=C(N1)C)C(=O)NCC=1C=NC=CC1 | C20H19N7O2S
